US09371305B2
Step 1: 1-methoxy-4-methylbenzene
p-cresol (20 g, 0.19 mol) and anhydrous potassium carbonate (75 g, 0.54 mol) were added into DMF (500 mL) and then iodomethane (27 g, 0.19 mol) was dropped under an ice bath. The system was stirred overnight at room temperature. At the end of reaction, the reaction system was added with water and then extracted with ethyl acetate, and the organic phase was washed with saturated brine, then dried and evaporated in vacuum to obtain 20 g of the product (86%) by column chromatography.

reactant | p-cresol | 0.19 mol, 20 g | C1=CC(=CC=C1O)C | C7H8O
reactant | potassium carbonate | 0.54 mol, 75 g | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 500 mL | CN(C)C=O | C3H7NO
reactant | iodomethane | 0.19 mol, 27 g | IC | CH3I
solvent | water | O | H2O
product | 1-methoxy-4-methylbenzene | 20 g, 86% | COC1=CC=C(C=C1)C | C8H10O
